US06235851B1
The oxidization in an oxygen atmosphere was conducted in the same manner as in Preparation Example 1 except that 1-methoxycarbonyladamantane was used instead of the adamantane, and, as a result, a 1-methoxycarbonyl-3-hydroxyadamantane (yield: 42%) and a 1-methoxycarbonyl-3,5-hydroxyadamantane (yield : 33%) were obtained with a conversion of 91%.

reactant | oxygen | O=O | O2
reactant | 1-methoxycarbonyladamantane | COC(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O2
product | 1-methoxycarbonyl-3-hydroxyadamantane | yield: 42% | COC(=O)C12CC3(CC(CC(C1)C3)C2)O | C12H18O3
